US04105776
By substituting 1-(3-mercapto-2-methylpropanoyl)-L-proline amide for the 1-(3-mercaptopropanoyl)-L-proline ethyl ester in the Procedure B of Example 80 and eliminating the saponification step, 1-(3-methylthio-2-methylpropanoyl)-L-proline amide is obtained.

reactant | 1-(3-mercapto-2-methylpropanoyl)-L-proline amide | SCC(C(=O)N1[C@H](C(=O)N)CCC1)C | C9H16N2O2S
reactant | 1-(3-mercaptopropanoyl)-L-proline ethyl ester | C(C)OC([C@H]1N(CCC1)C(CCS)=O)=O | C10H17NO3S
product | 1-(3-methylthio-2-methylpropanoyl)-L-proline amide | CSCC(C(=O)N1[C@H](C(=O)N)CCC1)C | C10H18N2O2S
